US06140332
Step 8.3: 4-Chloro-6-(biphen-4-yl)-7H-pyrrolo[2,3-d]pyrimidine
Under a protective gas, 430.5 mg (1.5 mmol) of 6-(biphen-4-yl)-7H-pyrrolo[2,3-d]-pyrimidin-4-ol in 6 ml of phosphorus oxychloride are heated at boiling for 4 hours. The reaction mixture is poured into ice-water and ethyl acetate. The aqueous phase is separated off and extracted with ethyl acetate. Concentrating the organic phases by evaporation and stirring the residue in hot THF/isopropanol yield the title compound; m.p. 295-300° C. (decomposition); FAB-MS: (M+H)+ =306.

reactant | 6-(biphen-4-yl)-7H-pyrrolo[2,3-d]-pyrimidin-4-ol | 1.5 mmol, 430.5 mg | C1(=CC=C(C=C1)C1=CC=CC=C1)C1=CC2=C(N=CN=C2O)N1 | C18H13N3O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | phosphorus oxychloride | 6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6-(biphen-4-yl)-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)C2=CC=CC=C2 | C18H12ClN3
